US08497368B2
To a degassed solution of 6-chloro-3-((6-fluoro-1-methyl-1H-indazol-5-yl)methyl)imidazo[1,2-b]pyridazine (400 mg, 1.267 mmol), was added Pd(Ph3P)4 (220 mg, 0.190 mmol) and tributyl(vinyl)stannane (422 mg, 1.330 mmol). The reaction mixture was heated to 120° C. for overnight. Then the reaction was quenched with NH4Cl(aq), extracted with DCM, dried over Na2SO4 and concentrated in vacuo to give a residue, which was purified by silica gel column chromatography with gradient Hex:EA to give 3-((6-fluoro-1-methyl-1H-indazol-5-yl)methyl)-6-vinylimidazo[1,2-b]pyridazine (168 mg, 43%). 1H-NMR (400 MHz, DMSO-d6) δ ppm 8.09 (d, 1H), 7.97 (s, 1H), 7.63 (d, 1H), 7.55 (d, 1H), 7.54 (d, 1H), 7.50 (s, 1H), 6.84 (dd, 1H), 6.31 (d, 1H), 5.72 (d, 1H), 4.37 (s, 2H), 3.98 (s, 3H). LCMS (method B): [MH]+=308, tR=2.49 min.

reactant | 6-chloro-3-((6-fluoro-1-methyl-1H-indazol-5-yl)methyl)imidazo[1,2-b]pyridazine | 1.267 mmol, 400 mg | ClC=1C=CC=2N(N1)C(=CN2)CC=2C=C1C=NN(C1=CC2F)C | C15H11ClFN5
reactant | tributyl(vinyl)stannane | 1.330 mmol, 422 mg | C(CCC)[Sn](C=C)(CCCC)CCCC
catalyst | Pd(Ph3P)4 | 0.190 mmol, 220 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-((6-fluoro-1-methyl-1H-indazol-5-yl)methyl)-6-vinylimidazo[1,2-b]pyridazine | 168 mg, 43% | FC1=C(C=C2C=NN(C2=C1)C)CC1=CN=C2N1N=C(C=C2)C=C | C17H14FN5
